US07183306B2
A mixture of 2-{4-[3-(difluoromethyl)-1-(6-methoxy-3-pyridinyl)-1H-pyrazol-5-yl]phenyl}ethyl methanesulfonate (7.4 g) and Ph(CO) 2NK (3.88 g) in DMF (50 ml) was stirred at 60° C. for 8 hours. Added water. The organic layer was extracted twice with EtOAc. Aqueous layer was washed with water (twice) and brine, dried over MgSO4, filtered, and evaporated under reduced pressure. The residue was triturated with IPE, filtered and dried to give 7.65 g of 2-(2-{4-[3-(difluoromethyl)-1-(6-methoxy-3-pyridinyl)-1H-pyrazol-5-yl]phenyl}ethyl)-1H-isoindole-1,3 (2H)-dione as a solid.

reactant | 2-{4-[3-(difluoromethyl)-1-(6-methoxy-3-pyridinyl)-1H-pyrazol-5-yl]phenyl}ethyl methanesulfonate | 7.4 g | CS(=O)(=O)OCCC1=CC=C(C=C1)C1=CC(=NN1C=1C=NC(=CC1)OC)C(F)F | C19H19F2N3O4S
reactant | water | O | H2O
reactant | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 2-(2-{4-[3-(difluoromethyl)-1-(6-methoxy-3-pyridinyl)-1H-pyrazol-5-yl]phenyl}ethyl)-1H-isoindole-1,3 (2H)-dione | 7.65 g | FC(C1=NN(C(=C1)C1=CC=C(C=C1)CCN1C(C2=CC=CC=C2C1=O)=O)C=1C=NC(=CC1)OC)F | C26H20F2N4O3
